US05492895
Preparation of 3-cyano-2-(1,1-dimethylethoxy) methanamidopropionic acid
20.0 g (86 mmol, 1 equiv.) of Boc-L-asparagine was dissolved in 120 mL of dry pyridine and 20.0 g (97 mmole, 1.3 equiv.) of dicyclohexylcarbodiimide dissolved in 60 mL of dry pyridine was added dropwwise over a period of 30 minutes. The reaction was stirred for 3 hours at 23° C. and filtered through a 2 μm nylon filter. The filtrate was concentrated in vacuo on a rotary evaporator and 100 mL of water was added. The pH was adjusted to 10 with 40% NaOH (aq.) and the solution filtered through a 2 μm nylon filter once again. The filtrate was passed through a 120 mL bed of Dowex 50X8-400 ion exchange resin and the resin washed with four column volumes of 1:1 methanol:water. The filtrate was concentrated in vacuo to yield 17.5 g (95% yield) of the title compound as a white solid. 1H-NMR (CD3OD): 4.40 p.p.m (m, 1H); 2.95 p.p.m. (m, 2H); 1.40 p.p.m. (s, 9H).

reactant | Boc-L-asparagine | 86 mmol, 20.0 g, 1 equiv. | C(=O)(OC(C)(C)C)N[C@@H](CC(N)=O)C(=O)O | C9H16N2O5
reactant | dicyclohexylcarbodiimide | 97 mmole, 20.0 g, 1.3 equiv. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | 3-cyano-2-(1,1-dimethylethoxy) methanamidopropionic acid | 17.5 g, 95% yield | C(#N)CC(C(=O)O)NC(=O)OC(C)(C)C | C9H14N2O4
